US07977352B2
To a solution of N-(6-chloropyridin-2-yl)pivalamide (15.8 g, 74.2 mmol) in anhydrous THF (150 mL) at −78° C. under a nitrogen atmosphere, is added 1.7 M t-butyllithium in pentane (96 mL, 163 mmol, 2.2 eq.) dropwise (dropping funnel) over 0.5 h. The reaction mixture is then stirred at −78° C. for 3 h before iodine (22.6 g, 89 mmol, 1.2 eq.) in THF (60 mL) is slowly added in one portion. After 10 min., the cooling bath is removed and the reaction is allowed to warm to rt and stirred for 2 h. Hydrochloric acid (1 M, 75 mL) is then added to the reaction mixture. The reaction mixture is concentrated in vacuo (rotary evaporator) to remove the THF, the resulting mixture is extracted with ethyl acetate (800 mL). The phases are separated and the organic layer is washed with aqueous 1 M Na2S2O3 (100 mL), brine (300 mL×2), water (300 mL), dried over MgSO4, and evaporated. The crude product is recrystallized from DCM/hexanes (1:4) and the solid that forms collected by filtration to provide N-(6-chloro-3-iodopyridin-2-yl)pivalamide as a white crystalline solid (17.2 g). The filtrate is evaporated and the residue chromatographed on a silica gel column (hexanes/EtOAc, 9/1) to provide an additional product (2.5 g). Overall 19.7 g (78% yield) of N-(6-chloro-3-iodopyridin-2-yl)pivalamide is obtained. 1H NMR (300 MHz, DMSO-d6), δ 9.86 (s, 1H), 8.30 (d, J=8.4 Hz, 1H), 7.20 (d, J=8.4 Hz, 1H), 1.23 (s, 9H). LCMS-ESI (m/z): calcd for C10H12Cl1N2O 337.9; [M+H]+ found 339.0.

reactant | N-(6-chloropyridin-2-yl)pivalamide | 74.2 mmol, 15.8 g | ClC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H13ClN2O
reactant | t-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 163 mmol, 96 mL, 2.2 eq. | CCCCC | C5H12
reactant | iodine | 89 mmol, 22.6 g, 1.2 eq. | II | I2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | N-(6-chloro-3-iodopyridin-2-yl)pivalamide | 17.2 g | ClC1=CC=C(C(=N1)NC(C(C)(C)C)=O)I | C10H12ClIN2O
